US07524965B2
To a hydrogenation flask was added biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(3-formylamino-4-hydroxyphenyl)ethylimino]methyl}-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester (4.6 g) and 2-methyltetrahydrofuran (50 mL). The resulting mixture was stirred until the solid dissolved (about 5 min.) and then the mixture was purged with nitrogen. Platinum on carbon (920 mg, 5 wt. %, support activated carbon) was added and the mixture was hydrogenated at 50 psi (Parr shaker) for 6 hours. The mixture was then filtered through Celite and the Celite was washed with 2-methyltetrahyrofuran (10 mL). To the filtrate was added a thiopropyl-modified silica gel (20% of weight of solution, Silicycle) and this mixture was stirred at 25° C. to 30° C. for 3 hours. The mixture was then filtered through Celite and concentrated to remove the solvent. The residue was dissolved in methanol (5 mL per gram of residue) and then the resulting solution was added slowly to a vigorously stirred 1:1 mixture of saturated aqueous sodium bicarbonate and water (40 mL per gram of residue). The resulting off-white slurry was stirred for 20 minutes and then filtered. The filter cake was washed with water (20 volumes), air dried for 3 hours and then dried in vacuum at room temperature overnight to provide biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(3-formylamino-4-hydroxyphenyl)ethylamino]methyl}-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester (80% recovery, about 96% purity).

reactant | biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(3-formylamino-4-hydroxyphenyl)ethylimino]methyl}-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester | 4.6 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CN=CC1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)O)NC=O | C45H57N5O6Si
solvent | 2-methyltetrahydrofuran | 50 mL | CC1OCCC1 | C5H10O
product | biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(3-formylamino-4-hydroxyphenyl)ethylamino]methyl}-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCC1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)O)NC=O | C45H59N5O6Si
